US07579469B2
A mixture of 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-2-methyl-[1,3]dioxolane (0.514 g, 1.55 mmol), 4-hydroxyquinoline (0.433 g, 2.98 mmol), and sodium ethoxide (21 wt. % solution in ethanol, 0.55 mL, 1.49 mmol) in ethanol (4.2 mL) was heated at 85° C. for 14 hours, cooled to room temperature, quenched with water, and concentrated in vacuo to remove most of the ethanol. The residue was diluted with half saturated aqueous sodium bicarbonate solution and extracted with methylene chloride. The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate-hexanes as the eluent. The product-rich fractions were concentrated in vacuo to afford 1-{2-hydroxy-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]-2-trifluoromethylpentyl}-1H-quinolin-4-one. Yield: 0.35 g.

reactant | 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-2-methyl-[1,3]dioxolane | 1.55 mmol, 0.514 g | CC(CC1(OC1)C(F)(F)F)(C)C=1C=C(C=CC1)C1(OCCO1)C | C17H21F3O3
reactant | 4-hydroxyquinoline | 2.98 mmol, 0.433 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium ethoxide | 1.49 mmol, 0.55 mL | [O-]CC.[Na+]
solvent | ethanol | 4.2 mL | C(C)O | C2H6O
product | 1-{2-hydroxy-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]-2-trifluoromethylpentyl}-1H-quinolin-4-one | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C1=CC(=CC=C1)C1(OCCO1)C)C)C(F)(F)F | C26H28F3NO4
